US07557215B2
2-Hydroxymethyl-pyrrolidin-1-yl-acetonitrile (S11)
The method follows that of S3 using 2-pyrrolidinemethanol (24.27 g, 0.241 mol), BrCH2CN (31.81 g, 0.265 mol), Et3N (37 mL, 0.265 mol) and dry THF (150 mL). The product was obtained as a straw-coloured oil (21.60 g, 64%) after purification by flash chromatography using ether/CH3OH (19:1). δH (250 MHz; CDCl3); 1.5-2.0 (m, 5H, CH2CH2CH2, CH2CH2CH, OH), 2.7 (m, 1H), 2.85 (m, 1H), 3.05 (m, 1H), 3.45 (2×d, 1H, J=4 Hz and J=11 Hz, 1×CHCH2OH), 3.65 (2×d, 1H, J=4 Hz and 11 Hz, 1×CHCH2OH) and 3.75 (d, 2H, NCH2CN); δC(62.9 MHz; CDCl3); 23.37, 27.45, 40.96, 53.95, 62.43, 63.06 and 115.48(CN); IR υmax/cm−1; 3375 (NH2), 3300 (NH2), 3200 (OH), 2970-2800 (CH2, CH3), 1600, 1475, 1375, 1230 and 1060; FAB MS, m/z(M+H)+ 141.

reactant | 2-pyrrolidinemethanol | 0.241 mol, 24.27 g | N1C(CCC1)CO | C5H11NO
reactant | BrCH2CN | 0.265 mol, 31.81 g | BrCC#N | C2H2BrN
reactant | Et3N | 0.265 mol, 37 mL | CCN(CC)CC | C6H15N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-pyrrolidin-1-yl-acetonitrile | 21.60 g, 64% | OCC1N(CCC1)CC#N | C7H12N2O
